US07223871B2
2-bromo-1-(2-ethyl-5-fluoro-indan-2-yl)-ethanone
3.8 g of 2-acetyl-2-ethyl-5-fluoroindan and 35 ml of methanol were placed into a round-bottomed flask equipped with a thermometer, a mechanical stirrer and a dropping funnel. The reaction mixture was cooled in a cooling bath while stirring to a temperature between −5° C. and −8° C. and 0.7 ml of a Br2-solution in a small amount of methanol was added dropwise. The cooling bath was removed and the reaction mixture was stirred at room temperature for 2 hours. The reaction mixture was cooled to a temperature between −5° C. and −8° C. and an additional 0.175 ml of Br2-solution in a small amount of methanol was added dropwise. The cooling bath was removed and the reaction mixture was stirred at room temperature for an additional 1 to 2 hours. After chromatographic purification using methylene chloride as an eluent 2.51 g of 2-bromo-1-(2-ethyl-5-fluoro-indan-2-yl)-ethanone was obtained as a liquid (yield 69%).

reactant | 2-acetyl-2-ethyl-5-fluoroindan | 3.8 g | C(C)(=O)C1(CC2=CC=C(C=C2C1)F)CC | C13H15FO
reactant | Br2 | 0.7 ml | BrBr | Br2
solvent | methanol | CO | CH4O
solvent | methanol | 35 ml | CO | CH4O
product | 2-bromo-1-(2-ethyl-5-fluoro-indan-2-yl)-ethanone | yield 69% | BrCC(=O)C1(CC2=CC=C(C=C2C1)F)CC | C13H14BrFO
